US05468888
0.37 cm3 of thionyl chloride are added to 23 cm3 of methanol cooled to -20° C. and 980 mg of 17-aminoheptadecanoic acid are added. The solution is stirred for 12 hours at a temperature in the region of 20° C. and the solvent is removed under reduced pressure (2.7 kPa) at a temperature in the region of 40° C. 1.08 g of methyl 17-aminoheptadecanoate hydrochloride are thus obtained in the form of a white solid.

reactant | thionyl chloride | 0.37 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | 17-aminoheptadecanoic acid | 980 mg | NCCCCCCCCCCCCCCCCC(=O)O | C17H35NO2
reactant | methanol | 23 cm3 | CO | CH4O
product | methyl 17-aminoheptadecanoate hydrochloride | 1.08 g | Cl.NCCCCCCCCCCCCCCCCC(=O)OC | InChI=1S/C18H37NO2.ClH/c1-21-18(20)16-14-12-10-8-6-4-2-3-5-7-9-11-13-15-17-19;/h2-17,19H2,1H3;1H
